US04606756
2-(Pyrrol-1-yl-)-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran
In this example, 1.05 g of pyrrole dissolved in 10 ml of dimethylformamide was slowly added to an anhydrous slurry containing 0.76 g of sodium hydride (added as a 50% in oil mixture) in 25 ml of dimethylformamide at room temperature. After the addition was completed and evolution of hydrogen observed to cease a solution containing 5 g of 2-bromo-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran in 25 ml of dimethylformamide was added dropwise. The mixture was then stirred for 48 hours at room temperature. The mixture was then sampled and examined by thin layer chromatography and then heated at 65° C. for one-half hour. The mixture was then poured into water, then acidified to about pH 1 by the addition of aqueous 10 wt.% hydrochloric acid. The mixture was extracted three times with ethyl ether. The combined extracts were washed three times with aqueous saturated sodium chloride solution, dried over magnesium sulfate and then evaporated in vacuo yielding a dark oil. The oil was chromatographed by high-pressure liquid chromatography over silica gel eluting with 1:1 vol. petroleum ether-ethyl acetate yielding the title compound.

reactant | pyrrole | 1.05 g | N1C=CC=C1 | C4H5N
reactant | sodium hydride | 0.76 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-bromo-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran | 5 g | BrC1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N(C)C | C13H11BrF3NO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(Pyrrol-1-yl-)-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran | N1(C=CC=C1)C1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N(C)C | C17H15F3N2O2
